US08980877B2
A suspension of (±)-(E)-3-{1′-(1-methyl-1H-indol-3-ylmethyl)-4-oxo-spiro[2H-(1,3)-benzoxazine-2,3′-piperidin]-6-yl}-acrylic acid (150 mg, 0.348 mmol) in DCM (4 ml) was treated with TEA (0.070 ml, 0.52 mmol) and then with EDC (99 mg, 0.52 mmol), HOBt (70 mg, 0.52 mmol) and NH2OTHP (49 mg, 0.42 mmol) following the procedure described in Example 30, Step B, giving (±)-(E)-3-{1′-(1-methyl-1H-indol-3-ylmethyl)-4-oxo-spiro[2H-(1,3)-benzoxazine-2,3′-piperidin]-6-yl}-N-(tetrahydro-pyran-2-yloxy)acrylamide as a white solid [LC-MS: (ES+) MH+: 531]. The solid was suspended in DCM (5 ml) and treated with 4 M HCl in dioxane (1 ml) as described in Example 30, Step C to give, after purification by preparative HPLC, (±)-(E)-3-[1′(1-methyl-1H-indol-3-ylmethyl)-4-oxo-spiro[2H-(1,3)-benzoxazine-2,3′-piperidin]-6-yl]-N-hyroxy-acrylamide (40 mg, trifluoroacetic salt) as a brown solid.

reactant | (±)-(E)-3-{1′-(1-methyl-1H-indol-3-ylmethyl)-4-oxo-spiro[2H-(1,3)-benzoxazine-2,3′-piperidin]-6-yl}-acrylic acid | 0.348 mmol, 150 mg | CN1C=C(C2=CC=CC=C12)CN1CC2(CCC1)OC1=C(C(N2)=O)C=C(C=C1)/C=C/C(=O)O | C25H25N3O4
reactant | EDC | 0.52 mmol, 99 mg
reactant | HOBt | 0.52 mmol, 70 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NH2OTHP | 0.42 mmol, 49 mg | NOC1OCCCC1 | C5H11NO2
solvent | DCM | 4 ml | C(Cl)Cl | CH2Cl2
product | (±)-(E)-3-{1′-(1-methyl-1H-indol-3-ylmethyl)-4-oxo-spiro[2H-(1,3)-benzoxazine-2,3′-piperidin]-6-yl}-N-(tetrahydro-pyran-2-yloxy)acrylamide | CN1C=C(C2=CC=CC=C12)CN1CC2(CCC1)OC1=C(C(N2)=O)C=C(C=C1)/C=C/C(=O)NOC1OCCCC1 | C30H34N4O5
